US06232310B1
c) 7-Chloro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide
N-(4-Chloro-2-cyanomethylsulfonylphenyl)acetamide (0.73 g) was added at room temperature to 0.5 M aqueous NaOH (10 ml) to form a yellow solution. After 45 min 0.1 g of charcoal was added and the mixture was filtered through celite. The filtrate was cooled to 0° C. and 1 M HCl (7.5 ml) was added. After 30 min the precipitate was collected by filtration and dried to give 0.66 g of the title compound. Recrystallization from methanol gave pale crystals. Yield 0.45 g (66%); mp 297-299° C.; 1H-NMR(CD3OD) δ (ppm): 7.91 (d, J=2.8 Hz, 1H); 7.68 (dd, 1H); 7.37 (d, J=9 Hz, 1H); 4.88 (br, H2O+NH); 2.51 (s, 3H); 13C-NMR (DMSO-d6) δ (ppm): 155.9, 134, 133.9, 129.6, 125.0, 121.40, 121.36, 112.7, 85.7, 20.3. IR (KBr) ν (cm−1): 3259, 3176, 3100, 2214, 1531, 1482, 1305, 1144. An additional crop of the title compound (0.09 g, 13%) was obtained from the mother liqueor.

reactant | N-(4-Chloro-2-cyanomethylsulfonylphenyl)acetamide | 0.73 g | ClC1=CC(=C(C=C1)NC(C)=O)S(=O)(=O)CC#N | C10H9ClN2O3S
reactant | charcoal | 0.1 g | C | CH4
solvent | NaOH | 10 ml | [OH-].[Na+]
product | 7-Chloro-3-methyl-4H-1,4-benzothiazine-2-carbonitrile 1,1-dioxide | 0.66 g | ClC1=CC2=C(NC(=C(S2(=O)=O)C#N)C)C=C1 | C10H7ClN2O2S
